2178-10-14 07:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Sulfisoxazole
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-10-13**] 02:14 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-10-13**] 04:34 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-14**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 69 (68 - 83) bpm
   BP: 131/75(89) {111/54(67) - 147/90(100)} mmHg
   RR: 13 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,128 mL
                                                                    642 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    148 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,070 mL
   Urine:
                                                                  1,185 mL
                                                                    270 mL
   NG:
   Stool:
                                                                  1,400 mL
   Drains:
   Balance:
                                                                 -2,808 mL
                                                                   -428 mL
   Respiratory support
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   Eyes / Conjunctiva: icteric
   Head, Ears, Nose, Throat: Normocephalic, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bases b/l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Oriented (to): x2, Movement:
   Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   80 K/uL
   175 mg/dL
   1.7 mg/dL
   20 mEq/L
   5.7 mEq/L
   42 mg/dL
   116 mEq/L
   147 mEq/L
   29.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2178-10-13**]  03:06 AM
                            [**2178-10-13**]  03:39 PM
                            [**2178-10-14**]  05:30 AM
   WBC
   4.6
   9.3
   Hct
   30.9
   32.1
   29.9
   Plt
   69
   80
   Cr
   1.1
   1.7
   Glucose
   180
   175
   Other labs: PT / PTT / INR:48.0/51.1/5.4, ALT / AST:64/146, Alk Phos /
   T Bili:86/6.9, Differential-Neuts:80.4 %, Lymph:14.4 %, Mono:4.4 %,
   Eos:0.6 %, Lactic Acid:3.8 mmol/L, Albumin:2.4 g/dL, LDH:1087 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   [**10-12**]: GNR in urine
   Assessment and Plan
   57 yo female with Hep C cirrhosis s/p transplant with recurrent
   cirrhosis admitted with increasing encephalopathic features  thought to
   be [**1-3**] UTI as a precipitant admitted for close observation of mental
   status.

 HEPATIC ENCEPHALOPATHY: mulit factorial explanation for her altered
   MS at least in part to decreased stool out put  and possibly
   complicated by a UTI (hx of klebsiella). She does have a report of
   ascites seemingly for the first time although by report. We will treat
   her with ceftriaxone (avoiding quinolones given interaction  with INR).
   We should also be covering her for SBP with this regimen. Her rising
   INR and falling albumin with increased frequency of episode of
   encephalopathy are concerning for progressive liver failure. Will
   discuss with liver team the role for IR guided paracentesis given that
   the ascites appears to be new.  There does not appear to be a GI bleed
   or any acute intracranial process.  Her mental status appears to be
   slowly improving.  We stop lasix (given bump in Cr, to help establish
   possible dx of HRS)
   - cont lactulose and rifax
   - Cont Vit K
   - Ceftriaxone for seven day course: UTI and SBP
   - cont immunosuppression (tacro)
   - Check c. dif
   Thrombocytopenia: stable with known splenomegaly
   Hypernatremia: free water for evolving hypernatremia, could be [**1-3**]
   pre-renal state .
   -follow up urine lytes
   Renal failure: concerning for evolving HRT. Will being work up but
   notably she received IV diuresis [**10-13**] we will hold diuresis today
   (this may be one potential explanation). Also she may well have SBP
   which could lead to HRT.
   - Check urine lytes, Urine protein, UA for RBC
   - follow renal function closely today
   - Hold addition
   Lactate elevation: likely [**1-3**] inability to clear lactate given impaired
   liver function has improved over the last 24hr
    Other issues per ICU resident note.
   ICU Care
   Nutrition:
   Comments: NG
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2178-10-12**] 09:00 PM
   20 Gauge - [**2178-10-12**] 09:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes

2178-10-14 07:41:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   IR did not recommend paracentesis - too little fluid, risk for bowel
   perforation
   Liver following, aware no paracentesis
   Being listed for liver transplant
   lactate 6.3 --> 3.8
   Sobbing throughout day and evening, but oriented year, person, place at
   3am
   ARF am [**10-14**] with cr o 1.7, k to 5.7, likely unable to get still EKG,
   gave kayexalate x1
   Allergies:
   Sulfisoxazole
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-10-13**] 02:14 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2178-10-13**] 04:34 PM
   Other medications:
   Lactulose 60 ml q6h
   Kayexalate
   Ceftriaxone 1 g q 24 hours
   Rifaximin 400 mg TID
   Vitamin K daily
   MVI daily
   Vitamin D
   Insulin SS
   Folate
   Tacrolium 0.5 mg q pm
   Metoprolol 25 [**Hospital1 **]
   MMF [**Telephone/Fax (1) 2089**]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-14**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 69 (68 - 83) bpm
   BP: 131/75(89) {111/54(67) - 147/90(100)} mmHg
   RR: 13 (9 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,128 mL
                                                                    674 mL
   PO:
             120 mL
   TF:
   IVF:
                                                                    148 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  3,935 mL
                                                                  1,070 mL
   Urine:
                                                                  1,185 mL
                                                                    270 mL
   NG:
   Stool:
                                                                  1,400 mL
   Drains:
   Balance:
                                                                 -2,808 mL
                                                                   -396 mL
   Respiratory support
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), systolic murmur
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, nontender
   Extremities: Right: 3+, Left: 3+
   Skin:  Not assessed, Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   AxOx3, but slightly confused, speaks slowly
   Labs / Radiology
   80 K/uL
   9.3 g/dL
   175 mg/dL
   1.7 mg/dL
   20 mEq/L
   5.7 mEq/L
   42 mg/dL
   116 mEq/L
   147 mEq/L
   29.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2178-10-13**]  03:06 AM
                            [**2178-10-13**]  03:39 PM
                            [**2178-10-14**]  05:30 AM
   WBC
   4.6
   9.3
   Hct
   30.9
   32.1
   29.9
   Plt
   69
   80
   Cr
   1.1
   1.7
   Glucose
   180
   175
   Other labs: PT / PTT / INR:48.0/51.1/5.4, ALT / AST:64/146, Alk Phos /
   T Bili:86/6.9, Differential-Neuts:80.4 %, Lymph:14.4 %, Mono:4.4 %,
   Eos:0.6 %, Lactic Acid:3.8 mmol/L, Albumin:2.4 g/dL, LDH:1087 IU/L,
   Ca++:7.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   CXR.  [**2178-10-13**].
   REASON FOR EXAM: 57-year-old woman with hepatic encephalopathy status
   post
   IVF, interval change.
   Since yesterday, the nasogastric tube tip is lower, in expected
   position. Left
   hemidiaphragm is still elevated. There is overall no other change.
   Small right pleural effusion is stable. Right calcified granuloma and
   tortuosity of the aorta are unchanged. Lungs are otherwise clear.
   The study and the report were reviewed by the staff radiologist.
   [**2178-10-12**].  Urine culture
 pan-sensitive klebsiella UTI
   [**10-12**]
 blood culture x 2 - ngtd
   Assessment and Plan
   Mr. [**Known lastname 1668**] is a 57 year old female with cirrhosis here with resolving
   hepatic encephalopathy and UTI.
   .
   1.  Renal failure. Cr rose from 1.1 to 1.7 this morning in setting of
   aggressive Lactulose regimen and getting a dose of lasix 40 IV.  Likely
   pre-renal, but concern hepatorenal.
   - urine lytes
   - follow cr
   - give albumin
   - hold lasix
   2.  Hypernatremia.  Likely secondary to NPO for two days due to AMS and
   dehydration secondary to significant diarrhea from Lactulose.
   - check urine lytes
   - albumin
   - regular diet with fluids as patient is more alert today
   2.   Hepatic encephalopathy.  Hepatic encephalopathy likely triggered
   by UTI.  Not enough ascites to tap, low suspicion for SBP.
   - can decrease lactulose to q 4 hours as mental status has improved
   - continue rifaximin
   - continue ceftriaxone for SBP
   .
   3.  Cirrhosis S/p liver transplant, now being listed for a second
   transplant.  INR continues to rise.  Albumin of 2.4.
    - mycophenolate, tacrolimus
   - liver following
   - continue Lactulose
   - hold lasix
   .
   3. Coagulatopathy.  INR 2.5- 3 at baseline, now continuing to ris.
   Likely secondary to hepatic dysfunction.
   - vitamin K x 3 days
   .
   4.  DM.
   - insulin sliding scale
   ..
   6.  Thrombocytopenia.  Stable.  Known to have splenomegaly.
   - follow platelets
   .
   PPx: therapeutic INR, PPI
   FULL CODE, confirmed with husband [**Name (NI) 117**]
   FEN: regular diet as tolerated
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   18 Gauge - [**2178-10-12**] 09:00 PM
   20 Gauge - [**2178-10-12**] 09:00 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Other, therapeutic INR)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2178-10-15 13:46:00 Physician Attending Progress Note
Chief Complaint: Drop in HCT, WBC and platelets
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   She is re-admitted to the unit now with subseqeutn improvement in her
   renal failure however her Hct dropped from 28 to 19 (confirmed on
   re-check) and her fibrinogen was below her baseline. Her WBC had
   dropped from 7 to 1 as well as drop in plts (although these are low at
   baseline).
   On the floor she received 3U FFP, 1U cryo and 2UPRBC were given. Heme
   onc was consulted.  Hemodynamically she was stable, no increase in O2
   and no change in mentation (A+O x3). No hematemesis or melena or
   hematochezia. No shortness of breath, no chest pain,  no hemoptysis or
   hematuria.
   ROS: negative in detail except as above
   24 Hour Events:
 EKG - At [**2178-10-14**] 03:33 PM
   History obtained from Medical records, House officer
   Allergies:
   Sulfisoxazole
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-10-14**] 02:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-15**] 01:44 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 36.6
C (97.9
   HR: 63 (61 - 80) bpm
   BP: 103/52(65) {102/52(65) - 132/78(91)} mmHg
   RR: 19 (15 - 19) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  2,722 mL
                                                                    399 mL
   PO:
                                                                    940 mL
                  TF:
   IVF:
                                                                    742 mL
   Blood products:
                                                                    400 mL
                                                                    339 mL
   Total out:
                                                                  3,020 mL
                                                                    165 mL
   Urine:
                                                                    520 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -298 mL
                                                                    234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: sclerae icteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bases bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   9.3 g/dL
   80 K/uL
   246 mg/dL
   1.4 mg/dL
   16 mEq/L
   4.1 mEq/L
   43 mg/dL
   113 mEq/L
   139 mEq/L
   29.9 %
   9.3 K/uL
        [image002.jpg]
                            [**2178-10-13**]  03:06 AM
                            [**2178-10-13**]  03:39 PM
                            [**2178-10-14**]  05:30 AM
                            [**2178-10-14**]  12:22 PM
   WBC
   4.6
   9.3
   Hct
   30.9
   32.1
   29.9
   Plt
   69
   80
   Cr
   1.1
   1.7
   1.4
   Glucose
   180
   175
   246
   Other labs: PT / PTT / INR:48.0/51.1/5.4, ALT / AST:64/146, Alk Phos /
   T Bili:86/6.9, Differential-Neuts:80.4 %, Lymph:14.4 %, Mono:4.4 %,
   Eos:0.6 %, D-dimer:652 ng/mL, Lactic Acid:3.8 mmol/L, Albumin:2.4 g/dL,
   LDH:1087 IU/L, Ca++:7.8 mg/dL, Mg++:2.1 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   57 year old female with cirrhosis here with resolving hepatic
   encephalopathy and [**Hospital 2111**] transferred to floor from MICU on [**10-14**], now
   re-admitted with
   > heme/pancytopenia
 This would appear to be related to global
   impairment of marrow function. The differential for her marrow
   suppression is broad, her corrected retic production index is 0.66
   implying the marrow is not functioning and there is no bandemia. This
   could be related to drug effect (she is on cell-cept, CTX can have this
   side effect) in addition she has a hx of CMV IgG +, this could
   represent re-activation of her CMV with bone marrow involvement,
   additional pathogens include, EBV and parvo-virus. She does not appear
   septic to support a diagnosis of bacterial invasion of the marrow. We
   appreciate the input of the hematology team and will be discussing with
   them the need for bone marrow biopsy. There does not appear to be a
   bleeding event to explain the drop in Hct based on history or exam.
   There is also some schistos on periph smear although she does not have
   other components such as renal failure (at present) that would argue
   for a diagnosis of TTP
   - blood smear, fibrinogen/platelet trend  r/o DIC, hemolysis.  Heme-onc
   following: ? bone marrow biopsy
   - cyro transfusion for fibrinogen <70, prbc for hct <23, plat for <20
   or trend downward
   - hct q8 hr until stable, transfuse 2uPRBC for low hct, trend
   ldh/retic, now stable, HD stable
   - medication effect possible, med changes have been DC of cellcept
   [**10-14**], addition of ceftriaxone [**10-12**] (has hx of
allergy
 to sulfa
   groups, with sulfur present on ctx molecule). / CTX was stopped, now on
   INR.
   > renal failure
 now stabilized, seems to have been related to lasix
   dose as she improved withholding lasix and receiving albumin. Cont to
   follow closely.
   > hepatic encephalopathy
 thought triggered by UTI.  There was a
   - lactulose q4 hrs
   - cont rifaximin
   - change ctx to cipro iv (diarrhea significant, question absorption),
   to complete 7d course to end [**10-19**]
   - hold Bactrim given pancytopenia
   .
   > cirrhosis s/p transplant
 being followed by liver transplant, being
   listed for a second transplant.  +significant coaguloapthy, low albumin
   with significant malnourishment, albumin of 2.4.
   - hold cellcept as per E-[**Doctor Last Name **] team, continue tacrolimus. Her rising
   MELD score will likely move her closer to transplant
   - liver recs: she
   - cont Lactulose
   - hold lasix
   - vitamin K PO x2 days
   - trend MELD score
   >  DM  - insulin sliding scale, keep 80% glucose <150
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-10-15**] 11:38 AM
   22 Gauge - [**2178-10-15**] 12:58 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2178-10-16 07:33:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - START [**2178-10-15**] 05:47 PM
   Allergies:
   Sulfisoxazole
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-10-14**] 02:00 PM
   Ciprofloxacin - [**2178-10-15**] 06:17 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-16**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.9
C (96.7
   HR: 61 (48 - 71) bpm
   BP: 124/63(79) {99/51(63) - 124/72(79)} mmHg
   RR: 19 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
                  Total In:
                                                                  2,121 mL
                                                                    214 mL
   PO:
                                                                    180 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    100 mL
   Blood products:
                                                                  1,721 mL
                                                                     54 mL
   Total out:
                                                                    423 mL
                                                                  1,055 mL
   Urine:
                                                                    423 mL
                                                                    255 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,698 mL
                                                                   -841 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, Anxious
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tender left neck at IJ site
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral bases,
   Diminished: bases R>L)
   Abdominal: Soft, Bowel sounds present, Distended, Tender: diffuse
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm, Jaundice, femoral CVC on the left, C/D/I
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   10.2 g/dL
   47 K/uL
   193 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.5 mEq/L
   39 mg/dL
   108 mEq/L
   142 mEq/L
   29.8 %
   2.4 K/uL
        [image002.jpg]
                            [**2178-10-13**]  03:06 AM
                            [**2178-10-13**]  03:39 PM
                            [**2178-10-14**]  05:30 AM
                            [**2178-10-14**]  12:22 PM
                            [**2178-10-15**]  06:35 PM
                            [**2178-10-16**]  12:00 AM
                            [**2178-10-16**]  05:00 AM
   WBC
   4.6
   9.3
   1.9
   2.5
   2.4
   Hct
   30.9
   32.1
   29.9
   22.8
   28.9
   29.8
   Plt
   69
   80
   46
   43
   47
   Cr
   1.1
   1.7
   1.4
   0.9
   1.0
   Glucose
   180
   175
   246
   234
   193
   Other labs: PT / PTT / INR:29.5/50.3/3.0, ALT / AST:64/146, Alk Phos /
   T Bili:86/6.9, Differential-Neuts:64.8 %, Band:0.0 %, Lymph:23.6 %,
   Mono:9.9 %, Eos:1.3 %, D-dimer:652 ng/mL, Fibrinogen:120 mg/dL, Lactic
   Acid:3.8 mmol/L, Albumin:2.4 g/dL, LDH:340 IU/L, Ca++:8.8 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.4 mg/dL
   CXR [**10-16**]:  small lung vols, left pleural effusion and small right rigt
   peural effusion.
   Assessment and Plan
   57 year old female with cirrhosis here with resolving hepatic
   encephalopathy and [**Hospital 2111**] transferred to floor from MICU on [**10-14**], now
   re-admitted with pan-cytopenia of unclear etiology.
   > heme/pancytopenia
 This would appear to be related to global
   impairment of marrow function. The differential for her marrow
   suppression is broad, her corrected retic production index is 0.66
   implying the marrow is not functioning and there is no bandemia. This
   could be related to drug effect (she is on cell-cept, CTX can have this
   side effect or single dose of pip-tazo) in addition she has a hx of CMV
   IgG +, this could represent re-activation of her CMV with bone marrow
   involvement, additional pathogens include, EBV (with hemophagocytic
   syndrome) and parvo-virus. We appreciate the input of the hematology
   team There does not appear to be a bleeding event to explain the drop
   in Hct based on history or exam.  There is also some schistos on periph
   smear although she does not have other components such as renal failure
   (at present) that would argue for a diagnosis of TTP.  Finally, the
   possibility of thrombosis of the portal/splenic vein with worsening
   splenic sequestration will be evaluated by U/S with flow Doppler [**10-16**]
   - F/u CMV, EBV, parvo virus
   - F/u U/S abd
   - F/u Ferritin for ? of hemophagocytic syndrome (trig nl)
   - cyro transfusion for fibrinogen <70, prbc for hct <23, plat for <20
   or trend downward
   - hct q8 hr until stable, transfuse 2uPRBC for low hct, trend
   ldh/retic, now stable, HD stable
   - medication effect possible, med changes have been DC of cellcept
   [**10-14**], addition of ceftriaxone [**10-12**] (has hx of
allergy
 to sulfa
   groups, with sulfur present on ctx molecule). / CTX was stopped, now on
   Ciprofloxacin.
   > Line placement: ? of right and left IJ clot on U/S and inability to
   place CVC. Will plan on imaging neck veins today.
   > renal failure
 now stabilized, seems to have been related to lasix
   dose as she improved withholding lasix and receiving albumin. Cont to
   follow closely.
    > hepatic encephalopathy
 thought triggered by UTI.  There was a
   - lactulose q4 hrs
   - cont rifaximin
   - change ctx to cipro iv (diarrhea significant, question absorption),
   to complete 7d course to end [**10-19**]
   - hold Bactrim given pancytopenia
    > cirrhosis s/p transplant
 being followed by liver transplant, being
   listed for a second transplant.  +significant coaguloapthy, low albumin
   with significant malnourishment, albumin of 2.4.
   - hold cellcept as per E-[**Doctor Last Name **] team, continue tacrolimus.
   - liver recs awating her status on the transplant list
   - cont Lactulose
   - hold lasix
   - vitamin K PO x2 days
   - trend MELD score
   Other issues per ICU resident note..
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2178-10-15**] 11:38 AM
   22 Gauge - [**2178-10-15**] 12:58 PM
   Multi Lumen - [**2178-10-15**] 05:47 PM
   Prophylaxis:
   DVT: Boots(low Plts)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2178-10-17 10:40:00 Physician Attending Progress Note
Chief Complaint: Hepatic encephalopathy [**1-3**] UTI
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2178-10-16**] 10:00 AM
   U/S OF NECK, STOMACH, AND ARMS - UNABLE TO PLACE CENTRAL LINE
   > U/S OF SPLEEN - NORMAL FLOW
   > 1 UNIT OF FFP
   History obtained from Patient
   Allergies:
   Sulfisoxazole
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2178-10-14**] 02:00 PM
   Ciprofloxacin - [**2178-10-17**] 08:59 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2178-10-17**] 08:00 AM
   Other medications:
   Lactulose, rifaximin, vitamin d, folic acid, RISS, Tacro 0.5 PO daily,
   Vitamin K, Famotidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-10-17**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 67 (59 - 73) bpm
   BP: 145/69(88) {110/51(66) - 145/88(99)} mmHg
   RR: 19 (14 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,772 mL
                                                                    572 mL
   PO:
                                                                    900 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    532 mL
                                                                    302 mL
   Blood products:
                                                                    340 mL
   Total out:
                                                                  2,580 mL
                                                                  1,570 mL
   Urine:
                                                                    780 mL
                                                                    620 mL
   NG:
   Stool:
   950 mL
   Drains:
   Balance:
                                                                   -808 mL
                                                                   -998 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): place and time, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   31 K/uL
   174 mg/dL
   0.7 mg/dL
   27 mEq/L
   4.0 mEq/L
   26 mg/dL
   112 mEq/L
   143 mEq/L
   30.0 %
   2.4 K/uL
        [image002.jpg]
                            [**2178-10-13**]  03:06 AM
                            [**2178-10-13**]  03:39 PM
                            [**2178-10-14**]  05:30 AM
                            [**2178-10-14**]  12:22 PM
                            [**2178-10-15**]  06:35 PM
                            [**2178-10-16**]  12:00 AM
                            [**2178-10-16**]  05:00 AM
                            [**2178-10-16**]  05:04 PM
                            [**2178-10-17**]  03:32 AM
   WBC
   4.6
   9.3
   1.9
   2.5
   2.4
   2.8
   2.4
   Hct
   30.9
   32.1
   29.9
   22.8
   28.9
   29.8
   29.1
   30.0
   Plt
   69
   80
   46
   43
   47
   39
   31
   Cr
   1.1
   1.7
   1.4
   0.9
   1.0
   0.9
   0.7
   Glucose
   180
   175
   246
   [**Telephone/Fax (3) 2189**]
   174
   Other labs: PT / PTT / INR:28.3/54.1/2.8, ALT / AST:40/61, Alk Phos / T
   Bili:69/8.4, Differential-Neuts:64.8 %, Band:0.0 %, Lymph:23.6 %,
   Mono:9.9 %, Eos:1.3 %, D-dimer:652 ng/mL, Fibrinogen:112 mg/dL, Lactic
   Acid:3.8 mmol/L, Albumin:3.2 g/dL, LDH:323 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   57 year old female with cirrhosis here with resolving hepatic
   encephalopathy and [**Hospital 2111**] transferred to floor from MICU on [**10-14**], now
   re-admitted with pan-cytopenia of unclear etiology.
   > heme/pancytopenia
 This would appear to be related to global
   impairment of marrow function. The differential for her marrow
   suppression is broad, her corrected retic production index is 0.66
   implying the marrow is not functioning and there is no bandemia. This
   could be related to drug effect (she is on cell-cept, CTX can have this
   side effect or single dose of pip-tazo) in addition she has a hx of CMV
   IgG +, this could represent re-activation of her CMV with bone marrow
   involvement, additional pathogens include, EBV (with hemophagocytic
   syndrome) and parvo-virus. We appreciate the input of the hematology
   team There does not appear to be a bleeding event to explain the drop
   in Hct based on history or exam.  There is also some schistos on periph
   smear although she does not have other components such as renal failure
   (at present) that would argue for a diagnosis of TTP.  Finally, the
   possibility of thrombosis of the portal/splenic vein with worsening
   splenic sequestration will be evaluated by U/S with flow Doppler [**10-16**]
   - CMV, EBV, parvo virus serologies negative
   - U/S abd
 no hepatic, portal or splenic vein thrombosis
   - F/u Ferritin for ? of hemophagocytic syndrome (trig nl)
   - cyro transfusion for fibrinogen <70, prbc for hct <23, plat for <20
   or trend downward
   - hct q8 hr until stable, transfuse 2uPRBC for low hct, trend
   ldh/retic, now stable, HD stable
   - medication effect possible, med changes have been DC of cellcept
   [**10-14**], addition of ceftriaxone [**10-12**] (has hx of
allergy
 to sulfa
   groups, with sulfur present on ctx molecule). / CTX was stopped, now on
   Ciprofloxacin.
   --Will check HIT ab and LE U/S to r/o DVT
   > Line placement: ? of right and left IJ clot on U/S and inability to
   place CVC. Will plan on imaging neck veins today. Has a fem line now.
   If unable to place, will try PICC (IR?) on Monday
   > renal failure
 now stabilized, seems to have been related to lasix
   dose as she improved withholding lasix and receiving albumin. Cont to
   follow closely.
    > hepatic encephalopathy
 thought triggered by UTI.  Today, she is
   AOx3
   - lactulose q4 hrs
   - cont rifaximin
   - change ctx to cipro iv (diarrhea significant, question absorption),
   to complete 7d course to end [**10-19**]
   - hold Bactrim given pancytopenia
    > cirrhosis s/p transplant
 being followed by liver transplant, being
   listed for a second transplant.  +significant coaguloapthy, low albumin
   with significant malnourishment, albumin of 2.4.
   - hold cellcept as per E-[**Doctor Last Name **] team, continue tacrolimus (level was = 6
   3 days ago).
   - liver recs awating her status on the transplant list
   - cont Lactulose
   - hold lasix
   - vitamin K PO x2 days
   - trend MELD score
   ICU Care
   Nutrition:
   Comments: PO
   Glycemic Control:
   Lines:
   Multi Lumen - [**2178-10-15**] 05:47 PM
   Comments: Femoral
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP: elevate HOB
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 min